US07820846B2
N-(2-Chloro-4-fluoro-5-nitrobenzoyl)-N′-n-propyl-N′-allyl-sulfamide (VA.1-a.241)
At from −5° C. to 0° C., 11.62 g (0.0474 mol) of 2-chloro-4-fluoro-5-nitrobenzoyl chloride in 50 ml methylene chloride were added with stirring, over 30 minutes, to a mixture of 8.50 g (0.048 mol) of N′-propyl-N′-allylsulfamide, 10.38 g (0.103 mol) of triethylamine and 0.09 g (0.736 mmol) of 4-N,N-dimethylaminopyridine in 90 ml of methylene chloride. The funnel was rinsed with 10 ml of the solvent. The mixture was initially stirred at 0° C. for 1 hour and then at 22° C. for 2 hours. 50 ml of 1N hydrochloric acid were then added, the mixture was stirred and the phases were separated. The organic phase was washed two more times with 1N hydrochloric acid and the aqueous phase was extracted with methylene chloride. Drying of the organic phase over magnesium sulfate was followed by filtration and concentration of the solution. The residue was triturated with diethyl ether/pentane, filtered off with suction and dried, giving 18.41 g (91.9% of theory) of the title compound of melting point (m.p.) of 110-112° C.

reactant | 2-chloro-4-fluoro-5-nitrobenzoyl chloride | 0.0474 mol, 11.62 g | ClC1=C(C(=O)Cl)C=C(C(=C1)F)[N+](=O)[O-] | C7H2Cl2FNO3
reactant | N′-propyl-N′-allylsulfamide | 0.048 mol, 8.50 g | C(CC)N(S(=O)(=O)N)CC=C | C6H14N2O2S
reactant | triethylamine | 0.103 mol, 10.38 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Chloro-4-fluoro-5-nitrobenzoyl)-N′-n-propyl-N′-allyl-sulfamide | ClC1=C(C(=O)NS(=O)(=O)N(CC=C)CCC)C=C(C(=C1)F)[N+](=O)[O-] | C13H15ClFN3O5S
